US07495103B2
Over a 30 min period, methyl iodide (17.7 g, 125 mmol) was added dropwise to a solution of sodium 2-(mercapto-phenylamino-methylene)-malonic acid diethyl ester (33 g, 104 mmol) in DMF (100 mL) cooled in an ice bath. The mixture was stirred at room temperature for 1 h, and then poured into ice water (300 mL). The resulting solid was collected via filtration, washed with water and dried to give 2-(methylsulfanyl-phenylamino-methylene)-malonic acid diethyl ester as a pale yellow solid (27 g, 84%).

reactant | methyl iodide | 125 mmol, 17.7 g | CI | CH3I
reactant | sodium 2-(mercapto-phenylamino-methylene)-malonic acid diethyl ester | 104 mmol, 33 g | C(C)OC(C(C(=O)OCC)=C(NC1=CC=CC=C1)S)=O.[Na]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-(methylsulfanyl-phenylamino-methylene)-malonic acid diethyl ester | 27 g, 84% | C(C)OC(C(C(=O)OCC)=C(NC1=CC=CC=C1)SC)=O | C15H19NO4S
